US04255429
The mixture of 3.75 g of 8-(3-piperidinyl)-8-azaspiro [4,5]decan-7,9 -dione, 3.59 g of 4-amino-2-chloro-6,7-dimethoxyquinazoline and 100 ml of isoamyl alcohol is stirred and refluxed under nitrogen for 24 hours. It is cooled to 20°, the solids filtered off, washed with isoamyl alcohol and diethyl ether and recrystallized from the mixture of 160 ml of methanol and 110 ml of water, to yield the 8-[1-(4-amino-6,7-dimethoxy-2-quinazolinyl)-3-piperidinyl]-8-azaspiro[4,5]decan-7,9-dione hydrochloride melting at 311°-312° with decomposition.

reactant | 8-(3-piperidinyl)-8-azaspiro [4,5]decan-7,9 -dione | 3.75 g | N1CC(CCC1)N1C(CC2(CCCC2)CC1=O)=O | C14H22N2O2
reactant | 4-amino-2-chloro-6,7-dimethoxyquinazoline | 3.59 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C10H10ClN3O2
solvent | isoamyl alcohol | 100 ml | C(CC(C)C)O | C5H12O
product | 8-[1-(4-amino-6,7-dimethoxy-2-quinazolinyl)-3-piperidinyl]-8-azaspiro[4,5]decan-7,9-dione hydrochloride | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CC(CCC1)N1C(CC2(CCCC2)CC1=O)=O | InChI=1S/C24H31N5O4.ClH/c1-32-18-10-16-17(11-19(18)33-2)26-23(27-22(16)25)28-9-5-6-15(14-28)29-20(30)12-24(13-21(29)31)7-3-4-8-24;/h10-11,15H,3-9,12-14H2,1-2H3,(H2,25,26,27);1H
